US07049307B2
4-nitro-2-(2-pyrrolidin-1-yl-ethyl)-2H-indazole
4-Nitroindazole (3.00 g, 18.4 mmol) was dissolved in 60 mL of N,N-dimethylformamide and potassium carbonate (7.50 g, 54.3 mmol) was added. The mixture was stirred for 30 minutes and then 1-(2-chloro-ethyl)-pyrrolidine hydrochloride (4.80 g 28.2 mmol) was added. The reaction mixture was heated to 60° C. for 6 hours, cooled to room temperature and the mixture filtered through a plug of silica gel which was rinsed with triethylamine/ethyl acetate (1/4). The filtrate was concentrated in vacuo to remove N,N-dimethylformamide and the residue purified by flash chromatography (silica gel, triethylamine/ethyl acetate 1/30). 1H NMR (300 MHz, DMSO-d6) δ ppm 1.64 (m, 4H), 2.48 (m, 4H), 3.01 (t, 2H, J=6.44), 4.67 (t, 2H, J=6.44), 7.49 (t, 1H, J=8.14), 8.19 (d, 2H, J=7.80), 8.92 (s, 1H); MS (DCI/NH3) m/z 261 [M+H]+.

reactant | 4-Nitroindazole | 18.4 mmol, 3.00 g | [N+](=O)([O-])C1=C2C=NNC2=CC=C1 | C7H5N3O2
reactant | potassium carbonate | 54.3 mmol, 7.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloro-ethyl)-pyrrolidine hydrochloride | 28.2 mmol, 4.80 g | Cl.ClCCN1CCCC1
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 4-nitro-2-(2-pyrrolidin-1-yl-ethyl)-2H-indazole | [N+](=O)([O-])C=1C2=CN(N=C2C=CC1)CCN1CCCC1 | C13H16N4O2
